US05599811
4-Hydroxy-6,7-dimethoxy-1,1-dioxo-1,2-dihydro-1λ6 -benzo[e][1,2]thiazine-3-carboxylic acid methyl ester
To a solution of 4,5-dimethoxy-2-(methoxycarbonylmethyl-sulfamoyl)-benzoic acid methyl ester (0.555 g, 1.60 mmol) in dry DMF (3 mL) was added dry and freshly prepared sodium methoxide (0.345 g, 6.39 mmol). A red colour was generated upon the addition of the sodium methoxide. The mixture was stirred for 45 minutes, and then diluted with 1N HCl (100 mL). The pale yellow solid that precipitated was collected and washed with water (0.341 g, 68%);

reactant | 4,5-dimethoxy-2-(methoxycarbonylmethyl-sulfamoyl)-benzoic acid methyl ester | 1.60 mmol, 0.555 g | COC(C1=C(C=C(C(=C1)OC)OC)S(NCC(=O)OC)(=O)=O)=O | C13H17NO8S
reactant | sodium methoxide | 6.39 mmol, 0.345 g | C[O-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | HCl | 1N, 100 mL | Cl | ClH
product | 4-Hydroxy-6,7-dimethoxy-1,1-dioxo-1,2-dihydro-1λ6 -benzo[e][1,2]thiazine-3-carboxylic acid methyl ester | COC(=O)C=1NS(C2=C(C1O)C=C(C(=C2)OC)OC)(=O)=O | C12H13NO7S
